US07189850B2
rac-2-p-Tolyl-cyclohexanol
A solution of p-tolyl-magnesium bromide, prepared from 17.1 g (100 mmol) p-tolyl bromide and 2.43 g (100 mmol) magnesium, in 100 ml abs. tetrahydrofuran was cooled to −20° C. and 1 g CuBr-dimethylsulfid complex was added and the mixture stirred at −20° C. for 10 min. To this a solution of 10 ml (9.80 g, 100 mmol) cyclohexene oxide in 10 ml abs. tetrahydrofuran was added drop-wise and the reaction warmed to 0° C. at which an exothermic reaction starts. With cooling the temperature was maintained below 25° C. The reaction mixture was stirred at 0 to 5° C. for additional 2h, then quenched with saturated aqueous ammonium chloride solution and extracted with tert.-butyl methyl ether. The organic extract was washed with water, dried over Na2SO4, filtered and evaporated. The residue, 18.25 g slightly yellow crystals was re-crystallizes from n-hexane: 9.91 g rac-2-p-tolyl-cyclohexanol as colorless crystals: m.p. 72.5–73° C., MS (EI): 190.1 M+.

reactant | p-tolyl-magnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
reactant | p-tolyl bromide | 100 mmol, 17.1 g | C1(=CC=C(C=C1)Br)C | C7H7Br
reactant | magnesium | 100 mmol, 2.43 g | [Mg] | Mg
reactant | cyclohexene oxide | 100 mmol, 10 ml, 9.80 g | C12C(CCCC1)O2 | C6H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | rac-2-p-Tolyl-cyclohexanol | C1(=CC=C(C=C1)C1C(CCCC1)O)C | C13H18O
